US05223498
Reaction of 1-(2-hydroxyethyl)-2-imidazolidinone (13 g) in dry dimethylformamide (125 ml) with sodium hydride (50% suspension in paraffin oil 12 g) at 10° C. for 3 hours was followed by treatment with methyl iodide (35.5 g) over a period of one hour. The mixture was stirred at ambient temperature for 18 hours gave 1-methyl-3-(2-methoxyethyl)-2-imidazolidinone (b.p. 110°-114° C. at 0.4 mm).

reactant | 1-(2-hydroxyethyl)-2-imidazolidinone | 13 g | OCCN1C(NCC1)=O | C5H10N2O2
reactant | sodium hydride | 12 g | [H-].[Na+]
reactant | methyl iodide | 35.5 g | CI | CH3I
reactant | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 1-methyl-3-(2-methoxyethyl)-2-imidazolidinone | CN1C(N(CC1)CCOC)=O | C7H14N2O2
